US07365225B2
Step a) Formation of benzyl 4-{[(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)amino]-methyl}benzoate
A solution of 4-formylbenzoate (481 mg) and 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one (386 mg) in toluene (20 mL) was heated at reflux for 12 h with azeotropic removal of water. The toluene was evaporated off under reduce pressure, the residue was taken up in methanol (10 mL) and cooled to 0° C. NaBH4 (114 mg) was added portionwise and the reaction mixture was stirred at 0° C. for 1 h then at rt for 2 h. The reaction mixture was poured into water and resulting mixture extracted with Et2O. The combined organic layers were washed with brine, dried over MgSO4 and filtered. The solvent was removed under reduce pressure to give the crude product as an oil. The product was purified by flash chromatography (SiO2, EtOAc/c-Hex 20/80) to give the title compound as a colorless oil (713 mg, 85%). 1H NMR (CDCl3) δ 8.07 (d, J=8.1 Hz, 2H), 7.54-7.32 (m, 7H), 7.17 (d, J=2.6 Hz, 1H), 6.89-6.78 (m, 2H), 5.37 (s, 2H), 4.41 (s, 2H), 1.70 (s, 6H). M+(ESI): 418.3; M−(ESI): 416.1. HPLC, Rt: 4.6 min (purity: 95.8%).

reactant | 4-formylbenzoate | 481 mg | C(=O)C1=CC=C(C(=O)[O-])C=C1
reactant | 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 386 mg | NC1=CC2=C(OC(OC2=O)(C)C)C=C1 | C10H11NO3
reactant | water | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl 4-{[(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)amino]-methyl}benzoate | 713 mg, 85% | CC1(OC(C2=C(O1)C=CC(=C2)NCC2=CC=C(C(=O)OCC1=CC=CC=C1)C=C2)=O)C | C25H23NO5
